US03998889
Preparation of Cyclopropylcarbinyl 2-Nitro-4-Chlorophenyl Sulfide
To 1.37 g. of 3-butenyltributyltin was added 0.89 g. of 4-chloro-2-nitrobenzene sulfenyl chloride dissolved in 20 ml. glacial acetic acid at steam bath temperature. The mixture was then heated on a steam bath for 30 minutes and poured into an ice water bath. The product was taken up in diethyl ether, washed twice with 50 ml. portions of water, twice with 50 ml. portions of saturated sodium bicarbonate and an additional time with 50 ml. of water. The resulting ether layer was separated, dried over magnesium sulfate and filtered. The solvent was removed on a rotary evaporator and the concentrate analyzed by proton nmr. The product proved to be cyclopropylcarbinyl 2-nitro-4-chlorophenyl sulfide.

reactant | 4-chloro-2-nitrobenzene sulfenyl chloride | ClC1=CC(=C(C=C1)SCl)[N+](=O)[O-] | C6H3Cl2NO2S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Nitro-4-Chlorophenyl Sulfide | [N+](=O)([O-])C1=C(C=CC(=C1)Cl)SC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C12H6Cl2N2O4S
